US07214673B2
3-Methyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride
Combine 4-methyl-2-(2-nitro-phenylamino)-benzonitrile (2.46 g, 9.71 mmol), tin(II) chloride dihydrate (6.57 g, 29.71 mmol), 5N. HCl (40 ml), and ethanol (40.0 ml). Stir the mixture at reflux for 8 hours then cool it to ambient temperature. Allow the mixture to stand at ambient temperature overnight then chill it for 3 hours in the refrigerator. Remove the resulting precipitate by vacuum filtration and dry it under vacuum to give 1.24 g (49%) of the desired compound as a yellow solid: mass spectrum (ion spray): m/z=224.0 (M+1).

reactant | 4-methyl-2-(2-nitro-phenylamino)-benzonitrile | 9.71 mmol, 2.46 g | CC1=CC(=C(C#N)C=C1)NC1=C(C=CC=C1)[N+](=O)[O-] | C14H11N3O2
reactant | tin(II) chloride dihydrate | 29.71 mmol, 6.57 g | O.O.[Sn](Cl)Cl
reactant | HCl | 40 ml | Cl | ClH
solvent | ethanol | 40.0 ml | C(C)O | C2H6O
product | 3-Methyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride | 1.24 g, 49% | Cl.CC=1C=CC2=C(NC3=C(N=C2N)C=CC=C3)C1 | InChI=1S/C14H13N3.ClH/c1-9-6-7-10-13(8-9)16-11-4-2-3-5-12(11)17-14(10)15;/h2-8,16H,1H3,(H2,15,17);1H
